US08470841B2
N-{3-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-1-methylpropyl}cyclopropanecarboxamide
3-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-1-methylpropylamine trifluoroacetate (115 mg, 0.28 mmol) and triethylamine (0.117 ml, 0.83 mmol) were dissolved in 5 ml of dichloromethane. Cyclopropanecarbonyl chloride (0.043 ml, 0.46 mmol) was added at 0° C. and the reaction mixture was stirred for 3 hours during which it warmed to room temperature. Following addition of water, the organic phase was separated off, concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 63 mg (62%), M+H+: 369.25.

reactant | 3-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-1-methylpropylamine trifluoroacetate | 0.28 mmol, 115 mg | FC(C(=O)O)(F)F.C(C)(C)OC1=CC=C(C=N1)OC1=CC=C(C=C1)CCC(C)N
reactant | triethylamine | 0.83 mmol, 0.117 ml | C(C)N(CC)CC | C6H15N
reactant | Cyclopropanecarbonyl chloride | 0.46 mmol, 0.043 ml | C1(CC1)C(=O)Cl | C4H5ClO
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-{3-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-1-methylpropyl}cyclopropanecarboxamide | C(C)(C)OC1=CC=C(C=N1)OC1=CC=C(C=C1)CCC(C)NC(=O)C1CC1 | C22H28N2O3
